US06387911B1
2-(2,2,2-Trifluoroethoxy)-5-chlorobenzaldehyde
Using a small volume of DMF, the trifluorethoxy triflate thus prepared was added to a mixture of 5-chlorosalicylaldehyde (5 g, 32 mmol) and cesium carbonate (21 g, 64 mmol) in DMF (50 mL) at room temperature. After stirring at room temperature overnight the solids were filtered off and the filtrate concentrated under reduced pressure. The residue was diluted with ether and washed well with water. Drying (Na2SO4) and concentration yielded the title compound as an oil: 1H NMR (CDCl3) δ10.42 (s, 1H), 7.84 (dd, J=2.6 Hz, 1H), 7.54 (m, 1H), 6.93 (d, J=8.8 Hz, 1H), 4.48 (qd, J=1.5, 7.8 Hz, 2H).

reactant | trifluorethoxy triflate | O(S(=O)(=O)C(F)(F)F)OCC(F)(F)F | C3H2F6O4S
reactant | 5-chlorosalicylaldehyde | 32 mmol, 5 g | ClC1=CC=C(C(C=O)=C1)O | C7H5ClO2
reactant | cesium carbonate | 64 mmol, 21 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 2-(2,2,2-Trifluoroethoxy)-5-chlorobenzaldehyde | FC(COC1=C(C=O)C=C(C=C1)Cl)(F)F | C9H6ClF3O2
